US06969716B2
5-(3-Bromo-4-fluorophenyl)-3-(4-methoxyphenyl)-[1,2,4]triazine was coupled to 3,5-difluoro-2-trimethylstannylpyridine using the method of Example 6 to give 5-[3-(3,5-difluoropyridin-2-yl)-4-fluorophenyl]-3-(4-methoxyphenyl)-[1,2,4]triazine, crystallised from hot 2-propanol as a pale yellow solid: δH (500 MHz, d6-DMSO) 3.88 (3H, s), 7.17 (2H, d, J 9.0 Hz), 7.69 (1H, t, J 9.1 Hz), 8.20 (1H, m), 8.52 (2H, d, J 9.0 Hz), 8.65-8.70 (2H, m), 8.77 (1H, d, J 2.2 Hz), 10.02 (1H, s); m/z (ES+) 395.

reactant | 5-(3-Bromo-4-fluorophenyl)-3-(4-methoxyphenyl)-[1,2,4]triazine | BrC=1C=C(C=CC1F)C=1N=C(N=NC1)C1=CC=C(C=C1)OC | C16H11BrFN3O
reactant | 3,5-difluoro-2-trimethylstannylpyridine | FC=1C(=NC=C(C1)F)[Sn](C)(C)C
product | 5-[3-(3,5-difluoropyridin-2-yl)-4-fluorophenyl]-3-(4-methoxyphenyl)-[1,2,4]triazine | FC=1C(=NC=C(C1)F)C=1C=C(C=CC1F)C=1N=C(N=NC1)C1=CC=C(C=C1)OC | C21H13F3N4O
